US06071932
3-Chloro-1-(3-ethyl-9H-carbazol-9-yl)propane/3-Bromo-1-(3-ethyl-9H-carbazol-9-yl)propane (Compound 15)
The compound was synthesized in the same manner as in example 1. Treatment of 3-ethylcarbazole (2.0 g, 0.0102 mol) with NaH (0.27 g, 0.0112 mol) succeeded by the addition of 1-bromo-3-chloropropane (1.77 g, 0.0112 mol) in DMF gave the title compound 2.3 g (82%) as a yellow oil. 1H-NMR (δ, CDCl3): 1.35 (t, 3H); 2.4 (m, 2H); 2.8 (q, 2H); 3.35 (t, 1H); 3.45 (t, 1H); 4.35 (t, 2H); 7-7.4 (m, 4H); 7.9 (s, 2H); 8.1 (d, 2H). The product was isolated as an 1:1 mixture of the 3-bromo- and 3-chloro derivatives.

reactant | 3-ethylcarbazole | 0.0102 mol, 2.0 g | C(C)C=1C=CC=2NC3=CC=CC=C3C2C1 | C14H13N
reactant | NaH | 0.0112 mol, 0.27 g | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | 0.0112 mol, 1.77 g | BrCCCCl | C3H6BrCl
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Chloro-1-(3-ethyl-9H-carbazol-9-yl)propane 3-Bromo-1-(3-ethyl-9H-carbazol-9-yl)propane | 2.3 g, 82% | ClCCCN1C2=CC=CC=C2C=2C=C(C=CC12)CC.BrCCCN1C2=CC=CC=C2C=2C=C(C=CC12)CC | InChI=1S/C17H18BrN.C17H18ClN/c2*1-2-13-8-9-17-15(12-13)14-6-3-4-7-16(14)19(17)11-5-10-18/h2*3-4,6-9,12H,2,5,10-11H2,1H3
